US08067445B2
Step 1: Cyclopropanecarboxylic acid (2-bromo-5-trifluoromethyl-benzyl)-ethyl-amide
Prepared according to the procedure described in Example 1, Step 6, using the following starting materials: (2-bromo-5-trifluoromethyl-benzyl)-ethyl-amine and cyclopropanecarbonyl chloride.

reactant | (2-bromo-5-trifluoromethyl-benzyl)-ethyl-amine | BrC1=C(CNCC)C=C(C=C1)C(F)(F)F | C10H11BrF3N
reactant | cyclopropanecarbonyl chloride | C1(CC1)C(=O)Cl | C4H5ClO
product | Cyclopropanecarboxylic acid (2-bromo-5-trifluoromethyl-benzyl)-ethyl-amide | BrC1=C(CN(C(=O)C2CC2)CC)C=C(C=C1)C(F)(F)F | C14H15BrF3NO
